US03992539
Preparation of 3-Trifluoromethyl-8-methoxy-s-triazolo-[3,4-a]-isoquinoline: ##SPC7##
A solution of 1-hydrazino-6-methoxyisoquinoline and excess trifluoroacetic acid was held at reflux for four hours. After removal of the excess acid, the residue was treated with potassium bicarbonate solution until neutral and filtered. The filter cake was recrystallized from ethanol to provide the product in a yield of 20%; m.p. 214°-215°C.

reactant | 1-hydrazino-6-methoxyisoquinoline | N(N)C1=NC=CC2=CC(=CC=C12)OC | C10H11N3O
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 3-Trifluoromethyl-8-methoxy-s-triazolo-[3,4-a]-isoquinoline | yield of 20% | FC(C1=NN=C2N1C=CC1=CC(=CC=C21)OC)(F)F | C12H8F3N3O
